US08871753B2
Step B: tert-Butyl {6-[2-(3-aminophenyl)ethyl]pyridin-2-yl}carbamate
To a mixture of tert-butyl {6-[(3-aminophenyl)ethynyl]pyridin-2-yl}carbamate (70.0 mg, 2.3 mmol) in methanol (25 mL) and was added 10% palladium on carbon (700 mg, 0.60 mmol). The resultant mixture was hydrogenated at 60 psi for 3 hours. The reaction mixture was filtered, washed with MeOH and concentrated to give the desired product (680 mg, 96%). LCMS for C18H24N3O2 (M+H)+: m/z=314.1.

reactant | tert-butyl {6-[(3-aminophenyl)ethynyl]pyridin-2-yl}carbamate | 2.3 mmol, 70.0 mg | NC=1C=C(C=CC1)C#CC1=CC=CC(=N1)NC(OC(C)(C)C)=O | C18H19N3O2
solvent | methanol | 25 mL | CO | CH4O
catalyst | palladium on carbon | 0.60 mmol, 700 mg | [Pd] | Pd
product | tert-Butyl {6-[2-(3-aminophenyl)ethyl]pyridin-2-yl}carbamate | 680 mg, 96% | NC=1C=C(C=CC1)CCC1=CC=CC(=N1)NC(OC(C)(C)C)=O | C18H23N3O2
